US07125896B2
b) 1-[2-(2-Bromophenoxy)ethyl]2,2,6-trimethylpiperidine
The title compound was prepared from 1-(2-chloroethyl)-2,2,6-trimethylpiperidine hydrochloride and 2-bromophenol in a similar manner to Example 2 (b).

reactant | 1-(2-chloroethyl)-2,2,6-trimethylpiperidine hydrochloride | Cl.ClCCN1C(CCCC1C)(C)C
reactant | 2-bromophenol | BrC1=C(C=CC=C1)O | C6H5BrO
product | 1-[2-(2-Bromophenoxy)ethyl]2,2,6-trimethylpiperidine | BrC1=C(OCCN2C(CCCC2C)(C)C)C=CC=C1 | C16H24BrNO
